US04436748
A mixture of 0.7 g of 6,7-dichloro-2,3-dihydro-3-hydroxy-5-methoxybenzo[b]thiophene, 1 ml of boron trifluoride etherate and 4 ml of glacial acetic acid is heated at 100° for 5 min. Ice is added and the mixture is basified with dilute sodium hydroxide solution. The off-white solid is collected on a filter, air-dried and recrystallized from ether-hexane to give 0.65 g of 6,7-dichloro-5-methoxybenzo[b]thiophene as prisms, mp 103°-104.5°.

reactant | 6,7-dichloro-2,3-dihydro-3-hydroxy-5-methoxybenzo[b]thiophene | 0.7 g | ClC=1C(=CC2=C(SCC2O)C1Cl)OC | C9H8Cl2O2S
reactant | boron trifluoride etherate | 1 ml | B(F)(F)F.CCOCC
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
product | 6,7-dichloro-5-methoxybenzo[b]thiophene | 0.65 g | ClC=1C(=CC2=C(SC=C2)C1Cl)OC | C9H6Cl2OS
